simulator lang=spectre
global 0
include "inductor_pi.scs"
VTEST (p 0) vsource dc=0 mag=1
XL (p 0 0) tx_inductor_pi rs=6.822430344006
ac ac start=10M stop=30G dec=60
save p VTEST:p
saveOptions options save=selected
