simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=ss
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
include "receiver.scs"
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=60

include "divider_v2.scs"
include "johnson_direct_trial.scs"
VP (cp 0) vsource type=sine dc=1.2 ampl=.2 freq=4G
VN (cn 0) vsource type=sine dc=1.2 ampl=.2 freq=4G sinephase=180
VR (rst 0) vsource type=pulse val0=1.2 val1=0 delay=5n rise=20p fall=20p width=1u period=2u
VD0 (vdd0 0) vsource dc=1.2
X0 (cp cn rst p0 n0 vdd0 0) tx_direct2 scale=0.25
XP0 (p0 o0 vdd0 0) tx_ac_receiver_v2
CL0 (o0 0) capacitor c=10f
VD1 (vdd1 0) vsource dc=1.2
X1 (cp cn rst p1 n1 vdd1 0) tx_direct7 scale=0.25
XP1 (p1 o1 vdd1 0) tx_ac_receiver_v2
CL1 (o1 0) capacitor c=10f
VD2 (vdd2 0) vsource dc=1.2
X2 (cp cn rst p2 n2 vdd2 0) tx_direct2 scale=0.5
XP2 (p2 o2 vdd2 0) tx_ac_receiver_v2
CL2 (o2 0) capacitor c=10f
VD3 (vdd3 0) vsource dc=1.2
X3 (cp cn rst p3 n3 vdd3 0) tx_direct7 scale=0.5
XP3 (p3 o3 vdd3 0) tx_ac_receiver_v2
CL3 (o3 0) capacitor c=10f
VD4 (vdd4 0) vsource dc=1.2
X4 (cp cn rst p4 n4 vdd4 0) tx_direct2 scale=1.0
XP4 (p4 o4 vdd4 0) tx_ac_receiver_v2
CL4 (o4 0) capacitor c=10f
VD5 (vdd5 0) vsource dc=1.2
X5 (cp cn rst p5 n5 vdd5 0) tx_direct7 scale=1.0
XP5 (p5 o5 vdd5 0) tx_ac_receiver_v2
CL5 (o5 0) capacitor c=10f
tran tran stop=60n maxstep=5p errpreset=moderate
save cp cn rst p0 n0 o0 VD0:p p1 n1 o1 VD1:p p2 n2 o2 VD2:p p3 n3 o3 VD3:p p4 n4 o4 VD4:p p5 n5 o5 VD5:p
saveOptions options save=selected
